US05196601
A mixture consisting of 0.52 g (0.0039 mole) of diethylene glycol monoethyl ether and 5 ml of xylene was added dropwise to a mixture consisting of 0.65 g (0.017 mole) of sodium borohydride, 10 ml of xylene and 10 g (0.065 mole) of 4-t-butylcyclohexanone at 95° C. over 30 minutes while agitating the mixture. Subsequently, the mixture was agitated for one hour while maintaining it at 95° C. Next, after the mixture was cooled to room temperature, it was neutralized with dilute sulfuric acid. As a result, 4-t-butylcyclohexanol was quantitatively obtained.

reactant | diethylene glycol monoethyl ether | 0.0039 mole, 0.52 g | C(C)OCCOCCO | C6H14O3
reactant | sodium borohydride | 0.017 mole, 0.65 g | [BH4-].[Na+]
reactant | 4-t-butylcyclohexanone | 0.065 mole, 10 g | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-t-butylcyclohexanol | C(C)(C)(C)C1CCC(CC1)O | C10H20O
